US07338960B2
Ethyl ({2-methyl-4-[({6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}methyl)thio]phenyl}oxy)acetate
A solution of the 2-(bromomethyl)-6-[4-(trifluoromethyl)phenyl]pyridine (238 mg, 0.75 mmol), ethyl (4-mercapto-2-methylphenoxy)acetate (84 mg, 0.37 mmol) and K2CO3 (57 mg, 0.41 mmol) in MeCN (5 mL) was stirred at rt, under nitrogen overnight. The mixture was then partitioned between water and EtOAc and the layers separated. The organic layer was then washed with water and brine, dried (MgSO4), filtered and reduced. Purification by SPE (silica, 2 g cartridge) eluting with CHCl3:cyclohexane (5:1) afforded the title compound (160 mg).

reactant | 2-(bromomethyl)-6-[4-(trifluoromethyl)phenyl]pyridine | 0.75 mmol, 238 mg | BrCC1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C13H9BrF3N
reactant | ethyl (4-mercapto-2-methylphenoxy)acetate | 0.37 mmol, 84 mg | SC1=CC(=C(OCC(=O)OCC)C=C1)C | C11H14O3S
reactant | K2CO3 | 0.41 mmol, 57 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 5 mL | CC#N | C2H3N
product | Ethyl ({2-methyl-4-[({6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}methyl)thio]phenyl}oxy)acetate | 160 mg | CC1=C(C=CC(=C1)SCC1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)OCC | C24H22F3NO3S
